US09169209B2
(Z)-2-fluoro-N-(4-(phenylsulfonyl)phenyl)-3-(pyridin-3-yl)acrylamide
The mixture of (Z)-2-fluoro-3-(pyridin-3-yl)acrylic acid (100 mg, 0.598 mmol),4-(phenylsulfonyl)aniline (140 mg, 0.598 mmol), 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) (341 mg, 0.897 mmol), DIEA (232 mg, 1.795 mmol) in DMF (Volume: 10 ml) was stirred at RT for overnight, removed DMF, extracted with EtOAc, washed with 1N NaOH, brine, dried and the biotage purification afforded the product (51 mg, 23%).

reactant | (Z)-2-fluoro-3-(pyridin-3-yl)acrylic acid | 0.598 mmol, 100 mg | F\C(\C(=O)O)=C/C=1C=NC=CC1 | C8H6FNO2
reactant | 4-(phenylsulfonyl)aniline | 0.598 mmol, 140 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(N)C=C1 | C12H11NO2S
reactant | 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) | 0.897 mmol, 341 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.795 mmol, 232 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (Z)-2-fluoro-N-(4-(phenylsulfonyl)phenyl)-3-(pyridin-3-yl)acrylamide | 51 mg, 23% | F\C(\C(=O)NC1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1)=C/C=1C=NC=CC1 | C20H15FN2O3S
